US08420647B2
4-(2,5-Dichloro-phenoxy)-nicotinic acid
To a suspension of 10 g (63.47 mmol) 4-chloronicotinic acid (commercially available; CAS RN 10177-29-4) and 11.38 g (69.81 mmol) 2,5-dichlorophenol (commercially available CAS RN 583-78-8) in 50 mL dry N,N-dimethylformamide were added 17.55 g (126.94 mmol) potassium carbonate, 1.21 g (6.35 mmol) copper(I) iodide and 1.21 g (19.04 mmol) copper nanopowder. The green suspension was stirred at 120° C. (oil bath temperature) for 3 hours and then cooled down to 80° C. At that temperature, 400 mL water were added, the suspension was stirred at 80° C. for 5 min., filtered over Dicalite® speed plus (Acros) and the filter cake washed twice with 50 mL water. The resulting filtrate was extracted three times with ethyl acetate and then the pH was adjusted to 4-5 using 140 mL 1M aqueous hydrochloric acid. The resulting green, turbid solution was treated with ethyl acetate, stirred for 5 min. and filtered. The blue solid that had formed was filtered off and the layers of the filtrate were separated. The aqueous layer was saturated with solid sodium chloride and extracted three times with ethyl acetate. The combined organic layers were washed with brine, dried over magnesium sulfate, filtered and evaporated. To the resulting solid 200 mL saturated aqueous potassium carbonate solution and 200 mL ethyl acetate were added. The aqueous layer was extracted twice with 200 mL ethyl acetate and the pH was adjusted to 4 using 25% aqueous hydrochloric acid. The resulting suspension was extracted three times with ethyl acetate. The combined organic layers were washed three times with water and once with brine, dried over magnesium sulfate, filtered and evaporated to give the desired compound as a light brown solid (7.29 g, 40%). MS (ESI): m/z=281.8 [M−H]−.

reactant | 4-chloronicotinic acid | 63.47 mmol, 10 g | ClC1=CC=NC=C1C(=O)O | C6H4ClNO2
reactant | 2,5-dichlorophenol | 69.81 mmol, 11.38 g | ClC1=C(C=C(C=C1)Cl)O | C6H4Cl2O
reactant | potassium carbonate | 126.94 mmol, 17.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 400 mL | O | H2O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
catalyst | copper(I) iodide | 6.35 mmol, 1.21 g | [Cu]I
catalyst | copper | 19.04 mmol, 1.21 g | [Cu] | Cu
product | 4-(2,5-Dichloro-phenoxy)-nicotinic acid | 7.29 g, 40% | ClC1=C(OC2=CC=NC=C2C(=O)O)C=C(C=C1)Cl | C12H7Cl2NO3
